US07754745B2
Step 1: 2-{3-[2-(Trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carbonitrile
A suspension of 2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboxamide (670 mg, 1.9 mmol) and triethylamine (0.92 mL, 6.6 mmol) in CH2Cl2 (25 mL) was cooled with an ice-acetone bath. Triflic anhydride (412 μL, 2.4 mmol) was added dropwise over 10 min. The mixture was stirred for 5 min and then the cooling bath was removed. After further stirring at rt for 15 min, the mixture was quenched with water and extracted twice with CH2Cl2. The combined CH2Cl2 extracts were washed twice with diluted brine, dried (Na2SO4) and concentrated. Combi-Flash chromatography (40 g, 40-80% EtOAc in hexanes in 20 min, 35 mL/min, 18 mL/fraction) gave a gum that was triturated with hexanes-Et2O (1:1) to give the title compound as a white powder. 1H NMR (400 MHz, acetone-d6): δ 7.88 (s, 1 H), 7.67 (m, 2 H), 7.41 (d, 1 H), 7.18 (t, 1 H), 5.53 (s, 1 H), 3.99 (m, 1 H), 3.85-3.67 (m, 3 H), 2.63-2.45 (m, 2 H). MS (+ESI) m/z 340 (MH+).

reactant | 2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboxamide | 1.9 mmol, 670 mg | FC(C1=C(OC2CN(CC2)C=2SC(=CN2)C(=O)N)C=CC=C1)(F)F | C15H14F3N3O2S
reactant | triethylamine | 6.6 mmol, 0.92 mL | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 2.4 mmol, 412 μL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-{3-[2-(Trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carbonitrile | FC(C1=C(OC2CN(CC2)C=2SC(=CN2)C#N)C=CC=C1)(F)F | C15H12F3N3OS
